US09290476B2
2,2,2-Trifluoro-1-(2-fluoro-5-((4-fluorophenyl)(hydroxy)methyl)phenyl)ethanone
A solution of 4-fluorophenylmagnesium bromide (3.64 mL, 1.1 M in THF, 4.0 mmol) in THF (3.6 mL) was stirred on a dry ice/acetone bath under argon while a solution of 4-fluoro-3-iodobenzaldehyde (1.00 g, 4.00 mmol, Intermediate 35: step a) in THF (6.4 mL) was added rapidly dropwise over 1.5 minutes, and the reaction was then immediately transferred to a room temperature water bath and stirred for 5 minutes. The clear, ˜colorless reaction was then cooled in the dry ice/acetone bath and treated with iPrMgCl (2.04 mL, 2.06 M in THF, 4.20 mmol) rapidly dropwise over 2.5 minutes. The yellow reaction was stirred for 30 minutes, and was then treated with 2,2,2-trifluoro-N-methoxy-N-methylacetamide dropwise over ˜30 seconds. The homogeneous yellow reaction was then immediately removed from the cold bath and allowed to warm to room temperature with stirring. After 2.5 hours, the dark yellow homogeneous reaction was chilled in a dry ice/acetone bath and quenched with 1 M aqueous NaH2PO4 (10 mL) in one portion. The reaction was warmed to room temperature and extracted with MTBE (1×10 mL, 1×5 mL), and the combined organic layers were washed with 5 M NaCl (1×3 mL), dried (Na2SO4), filtered, and concentrated twice from DCM to provide the crude title compound as a clear yellow oil.

reactant | 4-fluorophenylmagnesium bromide | 4.0 mmol, 1.1 M, 3.64 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | 4-fluoro-3-iodobenzaldehyde | FC1=C(C=C(C=O)C=C1)I | C7H4FIO
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | iPrMgCl | 4.20 mmol, 2.06 M, 2.04 mL | C(C)(C)[Mg]Cl
reactant | 2,2,2-trifluoro-N-methoxy-N-methylacetamide | FC(C(=O)N(C)OC)(F)F | C4H6F3NO2
solvent | THF | 3.6 mL | C1CCOC1 | C4H8O
solvent | THF | 6.4 mL | C1CCOC1 | C4H8O
product | 2,2,2-Trifluoro-1-(2-fluoro-5-((4-fluorophenyl)(hydroxy)methyl)phenyl)ethanone | FC(C(=O)C1=C(C=CC(=C1)C(O)C1=CC=C(C=C1)F)F)(F)F | C15H9F5O2
